US08293763B2
8-(4-Bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid ((S)-2-hydroxy-propoxy)-amide
To a solution of 8-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester (587 mg, 1.61 mmol) in IMS (20 mL) was added a 1.0 M aqueous solution of sodium hydroxide (1.7 mL, 1.7 mmol). The reaction mixture was heated at 65° C. for 2 hours and then cooled to room temperature and concentrated in vacuo. The resulting residue was azeotroped with toluene, and then suspended in dioxane (15 mL). EDCI (614 mg, 3.2 mmol) and HOBt (432 mg, 3.2 mmol) were then added before the reaction mixture was stirred for 30 min at room temperature. (S)-1-Aminooxy-propan-2-ol hydrochloride (408 mg, 3.20 mmol) and N-N-diisopropylethylamine (1.1 mL, 6.44 mmol) were then added sequentially before the reaction mixture was stirred for 18 hours at room temperature. The reaction mixture was then concentrated under reduced pressure. The resultant residue was taken up in ethyl acetate, then washed with water followed by a saturated aqueous solution of sodium bicarbonate and brine, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0% to 10%, methanol in dichloromethane). The appropriate fractions were combined and concentrated to give a residue that was subjected to HPLC (Gemini 5 micron C18 250×21.20 mm column, 0.1% formic acid, acetonitrile in water, gradient 5% to 85%, ramp time 20 minutes) to afford the title compound as a pale yellow solid (180 mg, 26%). LCMS (method A): RT=6.55 min, [M+H]+=423/425. 1H NMR (CDCl3): 10.46 (1H, s), 8.75 (1H, s), 7.99 (1H, s), 7.39 (1H, d, J=7.36 Hz), 7.32 (1H, dd, J=9.31, 2.15 Hz), 7.28 (1H, d, J=8.83 Hz), 7.12 (1H, t, J=8.38 Hz), 6.63 (1H, s), 6.46 (1H, d, J=7.33 Hz), 4.10-4.01 (1H, m), 3.93 (1H, dd, J=11.43, 2.28 Hz), 3.70 (1H, t, J=10.42 Hz), 1.14 (3H, d, J=6.47 Hz).

reactant | 8-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester | 1.61 mmol, 587 mg | COC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)Br)F | C15H11BrFN3O2
reactant | sodium hydroxide | 1.7 mmol, 1.7 mL | [OH-].[Na+]
reactant | EDCI | 3.2 mmol, 614 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3.2 mmol, 432 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-1-Aminooxy-propan-2-ol hydrochloride | 3.20 mmol, 408 mg | Cl.NOC[C@H](C)O
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | formic acid | C(=O)O | CH2O2
product | 8-(4-Bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid ((S)-2-hydroxy-propoxy)-amide | 180 mg, 26% | O[C@H](CONC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)Br)F)C | C17H16BrFN4O3
